US07101903B2
(1-Benzyl-5-bromo-1H-indol-2-yl)methyl acetate
The title compound was prepared from (1-benzyl-5-bromo-1H-indol-2-yl)methanol and acetyl chloride in substantially the same manner, as described in step 4 of Example 1. The product was obtained as a semi-solid. Mass spectrum (ESI, [M−H]−) m/z 356. 1H NMR (400 MHz, DMSO-d6) δ 7.78 (d, 1H, J=2.13 Hz), 7.38 (d, 1H, J=8.86 Hz), 7.29–7.20 (m, 4H), 6.94 (d, 2H, J=7.17 Hz), 6.64 (s, 1H), 5.47 (s, 2H), 5.21 (s, 2H), and 1.79 ppm (s, 3H).

reactant | (1-benzyl-5-bromo-1H-indol-2-yl)methanol | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Br)CO | C16H14BrNO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (1-Benzyl-5-bromo-1H-indol-2-yl)methyl acetate | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1)Br)CC1=CC=CC=C1 | C18H16BrNO2
